US07390908B2
Route 9: N-{6-[(3,5-dibenzyloxybenzoyl)amino]-pyridin-3-yl}-2-hydroxy-2-methyl-propionamide
To a stirred suspension of N-{6-[(3,5-dibenzyloxybenzoyl)amino]-pyridin-3-yl}-2-acetoxy-2-methyl-propionamide (158 mg) in methanol (10 ml) was added a solution of LiOH.H2O (30 mg) in water (1 ml) and THF (3 ml). The mixture was stirred at ambient temperature for 20 hours. Volatile material was removed by evaporation. To the residue was added water (10 ml). Made acidic with 2M hydrochloric acid. Precipitate filtered off, washed with ethyl acetate, and dried under high vacuum to give the title compound (120 mg) as a solid, 1H NMR δ (d6-DMSO): 1.35 (s, 6H), 5.18 (s,4H), 6.88 (s,1H), 7.28 to 7.48 (m, 12H), 8.08 (d, 1H), 8.22 (d, 1H), 8.82 (s,1H), 9.90 (s, 1H), 10.96 (s, 1H). MS ES+512.16 (M+H)+.

reactant | N-{6-[(3,5-dibenzyloxybenzoyl)amino]-pyridin-3-yl}-2-acetoxy-2-methyl-propionamide | 158 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=CC=C(C=N2)NC(C(C)(C)OC(C)=O)=O)C=C(C1)OCC1=CC=CC=C1 | C32H31N3O6
reactant | LiOH.H2O | 30 mg | O[Li].O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-{6-[(3,5-dibenzyloxybenzoyl)amino]-pyridin-3-yl}-2-hydroxy-2-methyl-propionamide | 120 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=CC=C(C=N2)NC(C(C)(C)O)=O)C=C(C1)OCC1=CC=CC=C1 | C30H29N3O5
